US04933355
Ethyl 2-(3-phenylthioureido)thiazol-4-ylglyoxylate
5 g of ethyl 2-aminothiazol-4-ylglyoxylate were dissolved in 30 ml of hexamethylphosphoric triamide, and 5.2 g of phenyl isothiocyanate were added to the resulting solution under ice-cooling. The reaction mixture was kept stirred at an external temperature of 60° C. for 8 hours, then acidified with dilute hydrochloric acid and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The crystals which precipitated out were collected by filtration to give the desired compound as pale yellow crystals.

reactant | ethyl 2-aminothiazol-4-ylglyoxylate | 5 g | NC=1SC=C(N1)C(C(=O)OCC)=O | C7H8N2O3S
reactant | phenyl isothiocyanate | 5.2 g | C1(=CC=CC=C1)N=C=S | C7H5NS
reactant | hydrochloric acid | Cl | ClH
solvent | hexamethylphosphoric triamide | 30 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | Ethyl 2-(3-phenylthioureido)thiazol-4-ylglyoxylate | C1(=CC=CC=C1)NC(NC=1SC=C(N1)C(C(=O)OCC)=O)=S | C14H13N3O3S2
